US08802665B2
(2S,4R)-4-(2-Chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(4-(methylsulfonyl)piperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide
To a solution of (2S,4R)-4-(2-chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(piperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide (35.4 mg, 70 μmol) in methylenehloride (0.7 mL) was added under stirring ethyldiisopropyl amine (18.3 μL, 105 μmol) and methanesulfonyl chloride (6.00 μL, 77.0 μmol). The reaction was stirred at room temperature for 5 hours and additional ethyldiisopropyl amine (18.3 μL, 105 μmol) and methanesulfonyl chloride (6.00 μL, 77.0 μmol) was added. The reaction was stirred at room temperature over night. The reaction was purified by column chromatography on silica gel using ethyl acetate as solvent to yield the title compound as a yellow solid (39 mg, 95%). MS ISP (m/e): 584.1/586.1 (100/44) [(M+H)]+.

reactant | (2S,4R)-4-(2-chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(piperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide | 70 μmol, 35.4 mg | ClC1=C(C=CC=C1)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)C1(CC1)N1CCNCC1)C(=O)NC1(CC1)C#N | C23H28ClN5O4S
reactant | methanesulfonyl chloride | 77.0 μmol, 6.00 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyldiisopropyl amine | 105 μmol, 18.3 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 77.0 μmol, 6.00 μL | CS(=O)(=O)Cl | CH3ClO2S
product | (2S,4R)-4-(2-Chlorophenylsulfonyl)-N-(1-cyanocyclopropyl)-1-(1-(4-(methylsulfonyl)piperazin-1-yl)cyclopropanecarbonyl)pyrrolidine-2-carboxamide | 39 mg, 95% | ClC1=C(C=CC=C1)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)C1(CC1)N1CCN(CC1)S(=O)(=O)C)C(=O)NC1(CC1)C#N | C24H30ClN5O6S2
